US04794182
Di-(2-methyl-4-amino-5-pyrimidylmethyl)amine:
And, neither 2-methyl-4-amino-5-pyrimidylmethylidene-(2-methyl-4-amino-5-pyrimidylmethyl)amine nor 2-methyl-4-amino-5-hydroxylmethylpyrimidine was detected.

reactant | 2-methyl-4-amino-5-pyrimidylmethylidene-(2-methyl-4-amino-5-pyrimidylmethyl)amine | CC1=NC=C(C(=N1)N)C=NCC=1C(=NC(=NC1)C)N | C12H15N7
reactant | 2-methyl-4-amino-5-hydroxylmethylpyrimidine | CC1=NC=C(C(=N1)N)CO | C6H9N3O
product | Di-(2-methyl-4-amino-5-pyrimidylmethyl)amine | CC1=NC=C(C(=N1)N)CNCC=1C(=NC(=NC1)C)N | C12H17N7
